US08008307B2
Step b: 3-Methylindan-1-amine
A mixture of-methylindan-1-one oxime (223 mg, 1.38 mmol) and 10% palladium on carbon (14.7 mg, 50% water wet) in MeOH (5.00 mL) was stirred under an atmosphere of hydrogen overnight. The mixture was then filtered through celite, washed through with MeOH and the combined filtrates were concentrated in vacuo to afford the title compound (195 mg, 96%). 1H NMR (CDCl3, 300 MHz) δ: 7.39-7.14 (m, 4H), 4.26 (dd, J=7.2, 9.4 Hz, 1H), 3.13-2.96 (m, 1H), 2.71 (ddd, J=6.9, 6.9, 12.5 Hz, 1H), 1.75 (bs, 2H), 1.35 (d, J=6.8 Hz, 3H), 1.25 (ddd, J=9.9, 9.9, 11.7 Hz, 1H) ppm.

reactant | methylindan-1-one oxime | 1.38 mmol, 223 mg | CC1C(C2=CC=CC=C2C1)=NO | C10H11NO
reactant | MeOH | 5.00 mL | CO | CH4O
catalyst | palladium on carbon | 14.7 mg | [Pd] | Pd
product | 3-Methylindan-1-amine | 195 mg, 96% | CC1CC(C2=CC=CC=C12)N | C10H13N
